US06444668B1
4,4-Dimethyl-6-(3-trimethylsilanylethynyl-phenyl)-1,4-dihydro-benzo[d][1,3]oxazin-2-one
A mixture of 6-(3-bromo-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (0.8 g, 2.4 mmol), trimethylsilylacetylene (1 g, 10 mmol), tetrakis(triphenylphosphine) palladium (0) (0.17 g, 0.24 mmol), and cuprous (I) iodide (0.05 g, 0.28 mmol) in triethyl amine (20 mL) was heated under nitrogen at 80° C. for 3 hours. The reaction mixture was cooled to rt and the solvent was removed. The residue was taken up in ethyl acetate (50 mL) and washed with 1N aqueous HCl (3×20 mL) and brine ( 20 mL). The organic layer was separated and dried (MgSO4). After removal of solvent, the residue was purified by a silica gel chromatography (hexane:ethyl acetate/3:1) to afford the title compound as a white solid (0.77 g, 92%): mp 240-242° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.74-7.69 (m, 2H), 7.61-7.58 (m, 2H), 7.48-7.40 (m, 2H), 6.96 (d, 1H, J=7.98 Hz), 1.67 (s, 6H), 0.25 (s, 9H); MS (EI) m/z 349([M+], 50%); Anal. Calc. For C21H23NO2Si.0.2 EtOAc: C, 71.32, H, 6.75, N, 3.82. Found: C, 71.08, H, 6.64, N, 3.82.

reactant | 6-(3-bromo-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 2.4 mmol, 0.8 g | BrC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H14BrNO2
reactant | trimethylsilylacetylene | 10 mmol, 1 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethyl amine | 20 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.24 mmol, 0.17 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4,4-Dimethyl-6-(3-trimethylsilanylethynyl-phenyl)-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 0.77 g, 92% | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=CC=C2)C#C[Si](C)(C)C)C | C21H23NO2Si
